US05495046
432 mg of N-n-propyl-2-[4-methoxy-3-(2-phenylethoxy)phenyl]ethylamine hydrochloride, 0.87 ml of 1-bromo-n-hexane and 379 mg of anhydrous potassium carbonate were stirred in 4.4 ml of N,N-dimethylformamide at room temperature for 2 days. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was successively washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and filtered, followed by evaporation of the solvent under reduced pressure. The residue was subjected to silica gel chromatography (developing solvent; n-hexane:ethyl acetate=1:1). The target fraction was concentrated and dissolved in 2 ml of ethyl acetate. After adding 0.25 ml of a 4N solution of hydrogen chloride in ethyl acetate, the solvent was evaporated to give 358 mg of oily N-n-hexyl-N-n-propyl-2-[4-methoxy-3-(2-phenylethoxy)phenyl]ethylamine hydrochloride.

reactant | N-n-propyl-2-[4-methoxy-3-(2-phenylethoxy)phenyl]ethylamine hydrochloride | 432 mg | Cl.C(CC)NCCC1=CC(=C(C=C1)OC)OCCC1=CC=CC=C1
reactant | 1-bromo-n-hexane | 0.87 ml | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 379 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4.4 ml | CN(C=O)C | C3H7NO
product | N-n-hexyl-N-n-propyl-2-[4-methoxy-3-(2-phenylethoxy)phenyl]ethylamine hydrochloride | 358 mg | Cl.C(CCCCC)N(CCC)CCC1=CC(=C(C=C1)OC)OCCC1=CC=CC=C1 | InChI=1S/C26H39NO2.ClH/c1-4-6-7-11-19-27(18-5-2)20-16-24-14-15-25(28-3)26(22-24)29-21-17-23-12-9-8-10-13-23;/h8-10,12-15,22H,4-7,11,16-21H2,1-3H3;1H
